US08183260B2
1-methylamino-5-(2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione
0.084 g of 1-amino-5-(2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione was dissolved in 10 mL of DMF, and 0.5 mL of methyl iodide were added. The reaction mixture was heated to 80° C., allowed to react at that temperature for 6 h, cooled, and 100 mL of water were added. The reaction solution was extracted with ethyl acetate (3×30 mL). The organic phases were combined, washed with 30 mL of and 30 mL of brine, dried over anhydrous MgSO4, filtered, and evaporated to dryness. The remaining residue was purified on silica gel column chromatography to yield a solid (0.033 g). MS (m/z): 292 (M−1)+.

reactant | 1-amino-5-(2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione | 0.084 g | NC=1SC=C2C1C(N(C2=O)C2C(NC(CC2)=O)=O)=O | C11H9N3O4S
reactant | methyl iodide | 0.5 mL | CI | CH3I
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-methylamino-5-(2,6-dioxopiperidin-3-yl)-5H-thieno(3,4-c)pyrrole-4,6-dione | 0.033 g | CNC=1SC=C2C1C(N(C2=O)C2C(NC(CC2)=O)=O)=O | C12H11N3O4S
